US05650428
The procedure described in Example 15 was repeated, except that (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide (500 mg) was hydrogenolyzed in the presence of 10% Pd-C, and then, reacted with 2-naphthalenesulfonyl chloride (463 mg) to obtain (RS)-N-(4-(ethoxycarbonyl-methyl)phenyl)-2-(2-naphthalenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide (345.7 mg).

reactant | (RS)-2-(benzyloxycarbonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 500 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1OCCCC1 | C26H32N2O7
reactant | 2-naphthalenesulfonyl chloride | 463 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
catalyst | Pd-C | [Pd] | Pd
product | (RS)-N-(4-(ethoxycarbonyl-methyl)phenyl)-2-(2-naphthalenesulfonylamino)-3-(tetrahydropyran-2-yloxy)propanamide | 345.7 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COC1OCCCC1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O | C28H32N2O7S
